US08735440B2
Step 1: 6-bromo-9H-pyrido[3,4-b]indole-3-carbonitrile (P7C3-S221)
6-bromo-9H-pyrido[3,4-b]indole-3-carbaldehyde (30 mg, 0.11 mmol) was suspended in 100 ul of THF. Ammonium hydroxide (1 mL) and iodine (31 mg, 0.12 mmol) were added and the mixture was stirred at room temperature for 1 hour. Upon completion, Na2S2O3 (5 ml) was added and was extracted 3× with diethyl ether. Material was used in the next step without further purification.

reactant | 6-bromo-9H-pyrido[3,4-b]indole-3-carbaldehyde | 0.11 mmol, 30 mg | BrC=1C=C2C3=C(NC2=CC1)C=NC(=C3)C=O | C12H7BrN2O
reactant | Ammonium hydroxide | 1 mL | [OH-].[NH4+]
reactant | iodine | 0.12 mmol, 31 mg | II | I2
reactant | Na2S2O3 | 5 ml | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | THF | 100 ul | C1CCOC1 | C4H8O
product | 6-bromo-9H-pyrido[3,4-b]indole-3-carbonitrile | BrC=1C=C2C3=C(NC2=CC1)C=NC(=C3)C#N | C12H6BrN3
